US06235771B1
Under argon atmosphere, a mixture of methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.70 g), 4-propoxyphenyl borate (0.38 g) and potassium carbonate (0.58 g) in toluene/ethanol/water (20/2/2 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphinepalladium (0.12 g), and the mixture was refluxed for 18 hours, cooled, extracted with ethyl acetate, washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (ethyl acetate/hexane=1:2→1:1) to give pale yellow crystals of methyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (616.4 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.70 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 4-propoxyphenyl borate | 0.38 g | B(OC1=CC=C(C=C1)OCCC)([O-])[O-]
reactant | potassium carbonate | 0.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 2 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-(4-propoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 616.4 mg | C(CC)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C21H22O5S
